US07763629B2
Method L: (R)-5-cyclopentyl-4-ethyl-N-(pyridin-3-yl)-4,5-dihydro-[1,2,4]triazolo[4,3-f]pteridin-7-amine (I-28)
To (R)-5-cyclopentyl-4-ethyl-4,5-dihydro-[1,2,4]triazolo[4,3-f]pteridin-7-amine (50 mg, 0.175 mmol) in DMF (1 ml) at 0° C. was added sodium hydride (60% in mineral oil, 7.7 mg, 0.193 mmol). The reaction mixture was stirred for 10 minutes, then methyl chloroformate (13.6 μL, 0.175 mmol) was added. The reaction was allowed to warm up to room temperature and was stirred for 18 hours. Ammonium chloride (5 ml, sat. aq. soln.) was added and extracted with EtOAc (3×10 ml). The combined organics were washed with brine (10 ml), dried over MgSO4, filtered and the solvent removed under vacuum. The crude product was purified by reverse phase preparative HPLC [Waters Sunfire C18, 10 □M, 100 Å column, gradient 10%-95% B (solvent A: 0.05% TFA in water; solvent B: CH3CN) over 16 minutes at 25 mL/min] to afford the title compound as an off-white powder (25 mg, 31%).

reactant | (R)-5-cyclopentyl-4-ethyl-4,5-dihydro-[1,2,4]triazolo[4,3-f]pteridin-7-amine | 0.175 mmol, 50 mg | C1(CCCC1)N1[C@@H](C=2N(C=3C=NC(=NC13)N)C=NN2)CC | C14H19N7
reactant | sodium hydride | 0.193 mmol, 7.7 mg | [H-].[Na+]
reactant | methyl chloroformate | 0.175 mmol, 13.6 μL | ClC(=O)OC | C2H3ClO2
reactant | Ammonium chloride | 5 ml | [Cl-].[NH4+]
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | (R)-5-cyclopentyl-4-ethyl-N-(pyridin-3-yl)-4,5-dihydro-[1,2,4]triazolo[4,3-f]pteridin-7-amine | 25 mg, 31% | C1(CCCC1)N1[C@@H](C=2N(C=3C=NC(=NC13)NC=1C=NC=CC1)C=NN2)CC | C19H22N8
